US07589095B2
Dess-Martin periodinane (4.2 g) was added to a solution of 4-(3-hydroxy-propyl)-6-(3,4-dimethylphenyl)-pyrimidine-2-carbonitrile (2.0 g) in dichloromethane (100 mL), and the resulting suspension stirred at room temperature for 45 min. The mixture was then washed with water (3×100 mL), dried over sodium sulphate, and evaporated at reduced pressure. The residue was flashed on silica gel using Petrol/EtOAc (2:1) to afford 4-(3-oxo-propyl)-6-(3,4-dimethylphenyl)-pyrimidine-2-carbonitrile as a white solid (1.9 g).

reactant | Dess-Martin periodinane | 4.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-(3-hydroxy-propyl)-6-(3,4-dimethylphenyl)-pyrimidine-2-carbonitrile | 2.0 g | OCCCC1=NC(=NC(=C1)C1=CC(=C(C=C1)C)C)C#N | C16H17N3O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(3-oxo-propyl)-6-(3,4-dimethylphenyl)-pyrimidine-2-carbonitrile | 1.9 g | O=CCCC1=NC(=NC(=C1)C1=CC(=C(C=C1)C)C)C#N | C16H15N3O
